US07514566B2
To a solution of (S)-tert-butyl 1-(N-(5-bromothiazol-2-yl)-tert-butoxylcarbonylamino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate (0.20 g, 0.34 mmol) in 3 mL of dioxane in a microwave safe tube, was added 2-fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzonitrile (0.13 g, 0.52 mmol), sodium carbonate, 2 M in water (0.69 mL, 1.4 mmol), and tetrakis(triphenylphosphine) palladium (0.020 g, 0.017 mmol). The mixture was purged with nitrogen for 30 seconds and the tube was sealed. The tube was then heated to 120° C. in a Personal Chemistry microwave unit for 20 minutes. The mixture was diluted with 5 mL of water and extracted twice with 8 mL of EtOAc. The combined organic extracts were washed with 7 mL of brine and dried over MgSO4. Filtration and concentration under reduced pressure afforded tert-butyl (S)-1-(5-(3-cyano-4-fluorophenyl)thiazol-2-ylamino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate, mixed with the other two products. The crude mixture was carried on to the next reaction without any further purification.

reactant | (S)-tert-butyl 1-(N-(5-bromothiazol-2-yl)-tert-butoxylcarbonylamino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate | 0.34 mmol, 0.20 g | BrC1=CN=C(S1)N(C[C@H](CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C23H29BrF3N3O4S
reactant | 2-fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzonitrile | 0.52 mmol, 0.13 g | FC1=C(C#N)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C13H15BFNO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 1.4 mmol, 0.69 mL | O | H2O
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium | 0.017 mmol, 0.020 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | tert-butyl (S)-1-(5-(3-cyano-4-fluorophenyl)thiazol-2-ylamino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate | C(#N)C=1C=C(C=CC1F)C1=CN=C(S1)NC[C@H](CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C25H24F4N4O2S
